reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:4]([C:3]([C+:2]=[C:5]=[N-:6])([H:10])[H:11])([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([C:5]#[N:6])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9],31.28639259036639
[C:1]([C@@:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])([C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])=[C:6]=[C:7]([H:11])[H:15])([H:8])([H:9])[H:10],79.3775478569185
[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[O:3][C:4]([N-:5][H:13])=[C+:6][N:7]1[H:12])([H:8])([H:9])[H:10],86.5238346926927
[O:1]=[C:2]([C:3]#[C:4][H:7])[C:5]#[N:6]>>[O:1]=[C:2]=[C:5]=[N:6][C:3]#[C:4][H:7],112.152451202388
[C:1]([C:2]([C@@:3]1([H:12])[C:4]([H:13])([H:14])[C@:5]1([C:6]([H:16])([H:17])[H:18])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([H:10])[H:11])([H:7])[H:9].[C:3]1([H:12])=[C:5]([H:15])[C:4]1([H:13])[H:14].[C:6]([H:8])([H:16])([H:17])[H:18],125.23434341977502
[O:1]=[C:2]([C:3](=[O:4])[C:5](=[O:6])[H:8])[H:7]>>[C-:3]#[O+:4].[O+:1](=[C-:2][H:7])[C:5](=[O:6])[H:8],63.9630462017045
[O:1](/[C:2](=[C:3]1\[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6])[H:7]>>[O:1]=[C:2]([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6],52.00098863553341
[O:1]([C@@:2]1([H:9])[C@:3]2([H:10])[O:4][C@@:5]1([H:11])[C@:6]2([O:7][H:13])[H:12])[H:8]>>[O:1]=[C:2]([C@:5]1([H:11])[O:4][C:3]([H:8])([H:10])[C@@:6]1([O:7][H:13])[H:12])[H:9],46.4686338966891
[C:1]([N+:2]([C-:3]([C:4]([O:5][H:15])([H:13])[H:14])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],24.577364822273793
[N:1]([C:2](=[O:3])[O:4]/[C:5](=[N:6]/[H:10])[H:9])([H:7])[H:8]>>[N:1](=[C:2](/[O:3][H:7])[O:4]/[C:5](=[N:6]/[H:10])[H:9])\[H:8],49.7951824671498
[O:1]([C:2]([C:3]([C:4]#[C:5][H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8]>>[C:3](=[C:4]=[C:5]([H:8])[H:12])([C:6]#[C:7][H:13])[H:11].[O:1]=[C:2]([H:9])[H:10],39.1647927006802
[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:8])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[O:4][C@:5]1([O:6][H:9])[H:14],85.4230062060383
[C:1]1([H:7])([H:8])[N:2]([H:9])[C:3]([H:10])([H:11])[C:4][N:5]1[H:6]>>[C:1]([N:2]([C:3]([C:4]#[N:5])([H:10])[H:11])[H:9])([H:6])([H:7])[H:8],45.98850008056801
[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C-:2]([N+:3]1=[C:4]([H:13])[C:5]([H:11])([H:14])[N:6]=[C:7]1[H:15])[H:12])([H:8])([H:9])[H:10],109.401396452875
[C:1]([C@:2]12[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C@@:5]1([H:15])[C:6]([H:16])([H:17])[O:7]2)([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([C:3]([C:4]([C:5][H:15])([H:13])[H:14])([H:11])[H:12])[C:6]([H:16])([H:17])[O:7]1)([H:8])([H:9])[H:10],89.5209353759012
[N:1](=[C:2]1/[C:3]([H:8])([H:9])[O:4][C:5]([H:10])([H:11])[O:6]1)\[H:7]>>[N:1](=[C:2](/[C:3]([O+:4]=[C-:5][H:11])([H:8])[H:9])[O:6][H:10])\[H:7],82.0380604807021
[C:1]([C:2](/[C:3](=[N:4]\[H:14])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:12])[H:15]>>[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:15])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],66.5695871024922
[C-:5]#[O+:6].[C:1]([N+:2]#[C-:3])([H:7])([H:8])[H:9].[N:4]([H:10])([H:11])[H:12]>>[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9],59.798135755284974
[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([H:11])[H:12])([H:8])[H:9].[C:3](=[O:4])([H:13])[H:14].[C:5](=[O:6])([N:7]([H:15])[H:16])[H:10],100.19581415073799
[C-:1]([O+:2]=[C:3]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:8])[H:9].[C:4]([H:7])([H:10])([H:11])[H:12]>>[C:1]([O:2][C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:7])([H:8])[H:9],24.616935472183208
[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N+:2]([C:3]([O-:4])=[C:5]([C:6]([H:13])([H:14])[H:15])[H:12])([C:7]([H:16])([H:17])[H:18])[H:11])([H:8])([H:9])[H:10],112.17333100523199
[C:1]([C:2]([C:3]#[C:4][C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:4](=[C:3])[C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],61.104376344221
[C-:1]([N+:2](=[C:3]([N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])[H:7])([H:8])[H:9]>>[C:1](/[N:2]=[C:3](/[N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],35.34547097691851
[O+:1]1=[C-:2][C@:3]2([H:9])[C:4]([H:8])([H:10])[C:5]([H:11])=[C:6]([H:12])[C@:7]12[H:13]>>[O:1]1[C@@:2]2([H:8])[C@:3]3([H:9])[C:4]([H:10])=[C:5]([H:11])[C@@:6]2([H:12])[C@:7]13[H:13],83.47989860446997
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1](=[C:2]=[C:7]1[O:5][C@:6]1(/[N:4]=[N:3]\[H:10])[H:9])[H:8],139.428008853806
